US06833387B1
Methyl 2-methoxycarbonyl-3-indoleacetate
Phenyl hydrazine (5.7 ml), dimethyl 2-oxoglutarate (10 g) and acetic acid (1.0 ml) in methanol (100 ml) were heated at reflux for 1 hour, then concentrated in in vacuo. The crude hydrazone (13 g) was dissolved in saturated methanolic hydrochloric acid (350 ml) and heated to 75° C. for 16 hours with continual stirring. The reaction was diluted with water (200 ml) and extracted with dichloromethane. Combined organic extracts were washed with saturated aqueous sodium hydrogencarbonate solution, water, saturated aqueous sodium chloride solution and dried (MgSO4). The solvent was removed in vacuo to give a yellow crystalline solid (7.0 g); NMR d (CD3SOCD3) 3.59 (s, 3H), 3.83 (s, 3H), 4.12 (s, 2H), 7.06 (t, 1H), 7.26 (t, 1H), 7.41 (d, 1H), 7.63 (d, 1H), 11.76 (brs, 1H); M/z (−) 246 (M−H+).

reactant | Phenyl hydrazine | 5.7 ml | C1(=CC=CC=C1)NN | C6H8N2
reactant | dimethyl 2-oxoglutarate | 10 g | O=C(C(=O)OC)CCC(=O)OC | C7H10O5
reactant | acetic acid | 1.0 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 100 ml | CO | CH4O
product | Methyl 2-methoxycarbonyl-3-indoleacetate | 7.0 g | COC(=O)C=1NC2=CC=CC=C2C1CC(=O)OC | C13H13NO4
